US05389641
23c) 4-Chloro-5-(p-tolyl)pyrimidine
A mixture of 4-hydroxy-5-(p-tolyl)pyrimidine (9 g, 48 mmol) and phosphorous oxychloride (44 ml) was heated under reflux for 2 hours. After the reaction mixture was concentrated to dryness, the residue was poured into iced water to precipitate crystals which were extraced with methylene chloride. The extract was washed with water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to afford colorless powders (7 g, 71%), m.p. 67°-70° C.

reactant | 4-hydroxy-5-(p-tolyl)pyrimidine | 48 mmol, 9 g | OC1=NC=NC=C1C1=CC=C(C=C1)C | C11H10N2O
reactant | phosphorous oxychloride | 44 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-(p-tolyl)pyrimidine | 7 g, 71% | ClC1=NC=NC=C1C1=CC=C(C=C1)C | C11H9ClN2
